US07300951B2
5. (S)-3-[(2S, 3R)-2-Azido-5, 5, 5-trifluoro-3-methylpentanoyl]-4-benzyl-1,3-oxazolidin-2-one
A solution of (4S)-4-benzyl-3-[(3S)-5,5,5-trifluoro-3-methylpentanoyl]-1,3-oxazolidin-2-one (8.2 g, 24.90 mmol) in THF (100 mL) was cooled to −78° C. and KHMDS (potassium hexamethyldisilazane −59.7 mL, 29.88 mmol) was added dropwise over a period of 10 min. After stirring at −78° C. for 1 h, a pre-cooled (−78° C., 50 min) solution of 2,4,6-triisopropylbenzenesulfonyl azide (10.1 g, 32.37 mmol) was added via cannula over a period of 10 min. After an additional 10 min at −78° C., glacial acetic acid (6.7 mL, 112.05 mmol) was added all at once through a funnel. After 5 min at −78° C. anhydrous potassium acetate (9.77 g, 99.6 mmol) was added. The −78° C. bath was lowered and the reaction mixture was allowed to warm to 25° C. overnight (19 h). The reaction mixture was diluted with EtOAc (200 mL) and the organic phase was washed with saturated aqueous potassium phosphate monobasic (2×100 mL) and saturated aqueous NaCl (100 mL). The organic layer was dried over MgSO4, filtered and concentrated to obtain a yellow oil (9.5 g). The crude product was purified by flash chromatography, eluent: 1:4 EtOAc-hexane, to furnish (S)-3-[(2S,3R)-2-azido-5,5,5-trifluoro-3-methylpentanol]-4-benzyl-1,3-oxazolidin-2-one as a colorless oil (7.2 g, 73.7%).

reactant | (4S)-4-benzyl-3-[(3S)-5,5,5-trifluoro-3-methylpentanoyl]-1,3-oxazolidin-2-one | 24.90 mmol, 8.2 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(C[C@@H](CC(F)(F)F)C)=O | C16H18F3NO3
reactant | KHMDS | 29.88 mmol, −59.7 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 2,4,6-triisopropylbenzenesulfonyl azide | 32.37 mmol, 10.1 g | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)N=[N+]=[N-] | C15H23N3O2S
reactant | acetic acid | 112.05 mmol, 6.7 mL | C(C)(=O)O | C2H4O2
reactant | potassium acetate | 99.6 mmol, 9.77 g | C(C)(=O)[O-].[K+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | (S)-3-[(2S, 3R)-2-Azido-5, 5, 5-trifluoro-3-methylpentanoyl]-4-benzyl-1,3-oxazolidin-2-one | 9.5 g | N(=[N+]=[N-])[C@H](C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)[C@@H](CC(F)(F)F)C | C16H17F3N4O3
